US03966735
1-[3-(4-Fluorobenzoyl)propyl]-4-[2-(4-methyl-2-methoxyphenoxy)ethyl]piperazine dihydrochloride
A mixture of 25.0 grams of 1-[2-(4-methyl-2-methoxyphenoxy)ethyl]piperazine, 20.1 grams of 3-(4-fluorobenzoyl)propyl chloride, 13.8 grams of potassium carbonate and 10 grams of potassium bromide was heated under gentle reflux for a period of 24 hours. The resulting reaction mixture was filtered while hot and the filtrate after cooling was acidified by adding thereto with stirring a 10% solution of hydrochloric acid, whereupon the compound that is specified in the heading separated. The resulting precipitate was then separated by filtration and recrystallized from a mixture of 80 parts by volume of ethanol and 20 parts by volume of water. In this manner, 15 grams of the salt specified in the heading, having a melting point of 211°-213°C, was obtained.

reactant | 1-[2-(4-methyl-2-methoxyphenoxy)ethyl]piperazine | 25.0 grams | CC1=CC(=C(OCCN2CCNCC2)C=C1)OC | C14H22N2O2
reactant | 3-(4-fluorobenzoyl)propyl chloride | 20.1 grams | FC1=CC=C(C(=O)CCCCl)C=C1 | C10H10ClFO
reactant | potassium carbonate | 13.8 grams | C([O-])([O-])=O.[K+].[K+]
reactant | potassium bromide | 10 grams | [Br-].[K+]
product | 1-[3-(4-Fluorobenzoyl)propyl]-4-[2-(4-methyl-2-methoxyphenoxy)ethyl]piperazine dihydrochloride | Cl.Cl.FC1=CC=C(C(=O)CCCN2CCN(CC2)CCOC2=C(C=C(C=C2)C)OC)C=C1 | InChI=1S/C24H31FN2O3.2ClH/c1-19-5-10-23(24(18-19)29-2)30-17-16-27-14-12-26(13-15-27)11-3-4-22(28)20-6-8-21(25)9-7-20;;/h5-10,18H,3-4,11-17H2,1-2H3;2*1H
